US05221750
Synthesis of Compound (29), 5-t-butyl-2-(2,4-bismethanesulfonylphenyl)-4-isoxazolin-3-one:
After mixing 1 g of 2,4-bismethanesulfonylchlorobenzene, 1 g of 5-t-butyl-3-hydroxyisoxazole, 1 g of potassium carbonate, and 8 ml of dimethyl sulfoxide, the reaction was performed for 4 hours at 80° C. After the reaction was over, the reaction mixture obtained was poured into water and extracted with ethyl acetate. Then, the ethyl acetate was distilled off from the extract under reduced pressure and the residue thus formed was recrystallized from a mixture of water and methanol to provide 0.85 g of the desired compound with a yield of 61.2%. The melting point thereof was 166° C. to 168° C.

reactant | 2,4-bismethanesulfonylchlorobenzene | 1 g | CS(=O)(=O)C1=C(C=CC(=C1)S(=O)(=O)C)Cl | C8H9ClO4S2
reactant | 5-t-butyl-3-hydroxyisoxazole | 1 g | C(C)(C)(C)C1=CC(=NO1)O | C7H11NO2
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-t-butyl-2-(2,4-bismethanesulfonylphenyl)-4-isoxazolin-3-one | 0.85 g, yield of 61.2% | C(C)(C)(C)C1=CC(N(O1)C1=C(C=C(C=C1)S(=O)(=O)C)S(=O)(=O)C)=O | C15H19NO6S2
